US08431695B2
Step 1: Preparation of 4-(3-Bromo-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
N-3-Bromophenylpiperazine (2.41 g, 10.0 mmol) was dissolved in 10 mL of CH2CL2 and a solution of di-tert-butyldicarbonate (2.18 g, 10.0 mmol) in 10 mL of CH2Cl2 was added dropwise over ˜10 minutes (vigorous gas evolution). The mixture was stirred at rt for 1 hour past the cessation of the gas evolution and then concentrated in vacuo and dried in a vacuum oven at 30° C. for 3 hours to provide the product. 1H-NMR (CD2Cl2) 7.14 (t, 1H), 7.08 (m, 1H), 6.97, (dd, 1H) 6.84 (dd, 1H) 7.40 (t, 1H) 3.55 (m, 4H), 3.16 (m, 4H), 1.48 (s, 9H); LC-MS [M+H]+=343.0, RT=4.03 min.

reactant | N-3-Bromophenylpiperazine | 10.0 mmol, 2.41 g | BrC=1C=C(C=CC1)N1CCNCC1 | C10H13BrN2
reactant | di-tert-butyldicarbonate | 10.0 mmol, 2.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Bromo-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)Br | C15H21BrN2O2
